US04421690
A mixture of 0.91 g (0.0030 mol) of 1α,3β-dihydroxyandrost-5-en-17-one [R. M. Dodson, A. H. Goldkamp and R. D. Muir, J. Amer. Chem. Soc., 82, 4026 (1960)], 15 mL of tetrahydrofuran, 1.26 g (0.015 mol) of 3,4-dihydro-2H-pyran and 0.028 g of p-toluenesulfonic acid monohydrate was stirred at 25° for 18 hr. The mixture was diluted with methylene chloride. This solution was then washed with saturated aqueous sodium bicarbonate solution. The organic phase was dried over anhydrous magnesium sulfate, filtered and evaporated to dryness to yield oily [1α,3β]-1,3-bis[(tetrahydro-2H-pyran-2-yl)oxy]androst-5-en-17-one, [α]D20 +34.3° (c 1, CHCl3).

reactant | 1α,3β-dihydroxyandrost-5-en-17-one | 0.0030 mol, 0.91 g | O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@@]12C)=O)O | C19H28O3
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
reactant | 3,4-dihydro-2H-pyran | 0.015 mol, 1.26 g | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid monohydrate | 0.028 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | [1α,3β]-1,3-bis[(tetrahydro-2H-pyran-2-yl)oxy]androst-5-en-17-one | O1C(CCCC1)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@@]12C)=O)OC1OCCCC1 | C29H44O5
